US07371743B2
(d) 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-(3,6-dihydro-[1,2]oxazin-2-yl)-benzamide
Prepared analogously to Example 1f from 3-chloro-4-(3,6-dihydro-[1,2]oxazin-2-yl)-benzoic acid, (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine, TBTU and NMM in DMF.

reactant | 3-chloro-4-(3,6-dihydro-[1,2]oxazin-2-yl)-benzoic acid | ClC=1C=C(C(=O)O)C=CC1N1OCC=CC1 | C11H10ClNO3
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NMM | CN1CCOCC1 | C5H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-(3,6-dihydro-[1,2]oxazin-2-yl)-benzamide | ClC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1N1OCC=CC1 | C20H18Cl2N4O2
